US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-phenoxyethyl)amide
The title compound was prepared as outlined in EXAMPLE 1 from 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18) and 2-phenoxyethylamine. The product was purified by chromatography on silica gel eluting with methanol/dichloromethane (1:19) to give the title compound as a yellow solid. δH (CD3OD): 3.79 (2H, t), 4.17 (2H, t), 6.88–6.97 (3H, m), 7.08 (1H, s), 7.16 (2H, t), 7.67 (1H, s), 8.58 (1H, s); m/z (ES+)=316 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | 2-phenoxyethylamine | O(C1=CC=CC=C1)CCN | C8H11NO
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (2-phenoxyethyl)amide | O(C1=CC=CC=C1)CCNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C16H14ClN3O2
